US05073565
N-[2,6-Bis(1-methylethyl)phenyl]-N'-(2-phenylmethyl-2H-tetrazol-5-yl)urea
5-Amino-2-benzyltetrazole (1.55 g, 8.84 mmol) was dissolved in 20 mL methylene chloride after which 2,6-diisopropylphenyl isocyanate (2.25 mL, 10.6 mmol) and 1.5 mL triethylamine was added. The mixture was stirred at room temperature for 4 days then quenched with 5 mL 2N sulfuric acid and extracted with 50 mL ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium carbonate, dried over magnesium sulfate, filtered, and evaporated, leaving a white solid which was recrystallized from ethyl acetate/ether to give the title compound, m.p. 180-181° C.

reactant | 5-Amino-2-benzyltetrazole | 8.84 mmol, 1.55 g | NC=1N=NN(N1)CC1=CC=CC=C1 | C8H9N5
reactant | 2,6-diisopropylphenyl isocyanate | 10.6 mmol, 2.25 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[2,6-Bis(1-methylethyl)phenyl]-N'-(2-phenylmethyl-2H-tetrazol-5-yl)urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC=1N=NN(N1)CC1=CC=CC=C1 | C21H26N6O
